US06194425B1
A catalytic amount of platinum oxide was added to a solution of 1-(2-methylpropyl)-1H-imidazo[4,5-c][1,7]naphthyridin-4-amine (0.4 g, 1.66 mol)) in trifluoroacetic acid. The reaction mixture was reduced on a Parr apparatus at 50 psi (3.5 Kg/cm2) hydrogen pressure overnight. The reaction mixture was filtered and washed with methanol to remove the catalyst. The filtrate was concentrated under vacuum. The residue was combined with dichloromethane and aqueous sodium bicarbonate was added until the mixture was basic. The dichloromethane layer was separated. The aqueous layer was extracted five times with dichloromethane (100 mL). The dichloromethane extracts were combined, dried over magnesium sulfate and concentrated under vacuum. The resulting residue was recrystallized from toluene to provide 0.34 g of 6,7,8,9-tetrahydro-1-(2-methylpropyl)-1H-imidazo[4,5-c][1,7]naphthyridin-4-amine as a solid, m.p. 220-223° C. Analysis: Calculated for C13H19N5+¼H2O: % C, 62.50% H, 7.87; % N, 28.03; Found: % C, 62.50; % H, 7.72; % N, 27.46.

reactant | 1-(2-methylpropyl)-1H-imidazo[4,5-c][1,7]naphthyridin-4-amine | 1.66 mol, 0.4 g | CC(CN1C=NC=2C(=NC=3C=NC=CC3C21)N)C | C13H15N5
reactant | hydrogen | [H][H] | H2
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
catalyst | platinum oxide | [Pt]=O
product | 6,7,8,9-tetrahydro-1-(2-methylpropyl)-1H-imidazo[4,5-c][1,7]naphthyridin-4-amine | 0.34 g | CC(CN1C=NC=2C(=NC=3CNCCC3C21)N)C | C13H19N5
